US06908913B2
Manganese dioxide (1.43 g) was added to a solution of 803 mg of 7-[[5-(t-butyldimethylsilyloxymethyl)-pyridin-3-yl]hydroxymethyl]imidazo[5,1-b]thiazole in 10 ml of dichloromethane, and the mixture was stirred at room temperature for 16 hr. The reaction solution was filtered through Celite, followed by washing with dichloromethane. The filtrate was concentrated under the reduced pressure to give 712 mg of 7-[5-(t-butyldimethylsilyloxymethyl)pyridin-3-yl]carbonyl imidazo[5,1-b]thiazole.

reactant | 7-[[5-(t-butyldimethylsilyloxymethyl)-pyridin-3-yl]hydroxymethyl]imidazo[5,1-b]thiazole | 803 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=NC1)C(C=1N=CN2C1SC=C2)O | C18H25N3O2SSi
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | Manganese dioxide | 1.43 g | [O-2].[O-2].[Mn+4]
product | 7-[5-(t-butyldimethylsilyloxymethyl)pyridin-3-yl]carbonyl imidazo[5,1-b]thiazole | 712 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=NC1)C(=O)C=1N=CN2C1SC=C2 | C18H23N3O2SSi
